US09120749B2
(6-bromo-4-((trans-4-(hydroxymethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (1.16 g, 3.75 mmol) was reacted with (trans-4-aminocyclohexyl)methanol (726 mg, 5.61 mmol) to afford the desired product (1.23 g, 81%) as a white solid. ESI MS m/z 403 [C20H23BrN2O2+H]+

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 3.75 mmol, 1.16 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | (trans-4-aminocyclohexyl)methanol | 5.61 mmol, 726 mg | N[C@@H]1CC[C@H](CC1)CO | C7H15NO
product | (6-bromo-4-((trans-4-(hydroxymethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 1.23 g, 81% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CO | C20H23BrN2O2
